US07855216B2
Step 2: 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide
To a heterogeneous mixture of 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (160.0 mg, 0.37 mmol) and O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine (113.1 mg, 0.77 mmol, 2.1 eq) in anhydrous N,N-dimethylformamide (5.7 mL) was added N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate (278.3 mg, 0.74 mmol, 2.0 eq) and N,N-diisopropylethylamine (0.25 mL, 1.46 mmol, 4.0 eq), and the resulting homogeneous reaction mixture was stirred under N2 at RT for 16 h. The reaction mixture was quenched with MeOH (2 mL), and the crude material was absorbed onto silica. The crude mixture was purified by flash column chromatography (silica, ISCO, 45 mL/min, 25 to 100% EtOAc in hexane) to afford the product as an orange waxy solid (75.4 mg; 36.4%). LC-MS (method C): [M+H]+=567.2, RT=0.73 min.

reactant | 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid | 0.37 mmol, 160.0 mg | C1(CC1)N1C(=C(C=2C=NC=CC21)NC2=C(C=C(C=C2)I)F)C(=O)O | C17H13FIN3O2
reactant | O-(2,2-dimethyl-[1,3]dioxolan-4-ylmethyl)-hydroxylamine | 0.77 mmol, 113.1 mg, 2.1 eq | CC1(OCC(O1)CON)C | C6H13NO3
reactant | N,N,N′,N′-tetramethyl-O-(7-azabenzotriazol-1-yl)uronium hexafluorophosphate | 0.74 mmol, 278.3 mg, 2.0 eq | F[P-](F)(F)(F)(F)F.C[N+](=C(ON1N=NC2=C1N=CC=C2)N(C)C)C
reactant | N,N-diisopropylethylamine | 1.46 mmol, 0.25 mL, 4.0 eq | C(C)(C)N(C(C)C)CC | C8H19N
solvent | N,N-dimethylformamide | 5.7 mL | CN(C=O)C | C3H7NO
product | 1-cyclopropyl-3-(2-fluoro-4-iodo-phenylamino)-1H-pyrrolo[3,2-c]pyridine-2-carboxylic acid (2,2-dimethyl-[1,3]dioxolan-4-ylmethoxy)-amide | CC1(OCC(O1)CONC(=O)C1=C(C=2C=NC=CC2N1C1CC1)NC1=C(C=C(C=C1)I)F)C | C23H24FIN4O4
